US04654349
6-Ethyl-3-hydroxypyrazolo[1,5-a]pyridine
A mixture of 3.8 g of 1-amino-5-ethyl-2-hydroxy methylpyridinium chloride, 2.5 g of sodium acetate, 25 ml of acetic acid and 8.9 g of ethyl orthoformate was refluxed for 4 hours in an oil bath at 140° C. After evaporated under vacuum, to the residue was added water. The mixture was brought to pH 11 by the addition of potassium carbonate and extracted with ethyl acetate. Ethyl acetate extract was then dried over anhydrous sodium sulfate, decolorized with charcoal and concentrated to dryness. After purification of the oily residue by silica gel column chromatography, eluted with chloroform, the light brown viscous oil that had a yellowish green fluorescence by irradiating of the long wave ultraviolet rays (3650 Å) was obtained. By recrystallization from chloroform-methanol, 1.36 g of the desired product, pale yellow needles, were obtained. Yield: 42.0%, mp 78°-79° C. The result of elemental analysis was illustrated in Table 3.

reactant | 1-amino-5-ethyl-2-hydroxy methylpyridinium chloride | 3.8 g | [Cl-].N[N+]1=C(C=CC(=C1)CC)CO
reactant | sodium acetate | 2.5 g | C(C)(=O)[O-].[Na+]
reactant | ethyl orthoformate | 8.9 g | C(OCC)([O-])[O-]
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 6-Ethyl-3-hydroxypyrazolo[1,5-a]pyridine | Yield: 42.0% | C(C)C=1C=CC=2N(C1)N=CC2O | C9H10N2O
